US07276528B2
Under a nitrogen atmosphere, 4-chloro-2-(3-dimethylaminomethyl-2-methysulfanyl-phenoxy)-benzonitrile (1.02 g, 3.06 mmol) was dissolved in anhydrous toluene (10 mL). The solution was cooled to 0° C. and ethyl chloroformate (900 μL, 9.2 mmol) was slowly added. The reaction mixture was stirred for 17 h, allowing it to reach room temperature. Water (5 mL) and diethyl ether (5 mL) were added and the organic layer was separated and dried with MgSO4. After filtration, the solution was absorbed onto silica gel (1.5 g) and the solvent was removed in vacuo. This material was chromatographed on an ISCO CombiFlash Chromatography System to yield 4-chloro-2-(3-chloromethyl-2-methysulfanyl-phenoxy)-benzonitrile as a clear oil (800 mg, 81%).

reactant | 4-chloro-2-(3-dimethylaminomethyl-2-methysulfanyl-phenoxy)-benzonitrile | 3.06 mmol, 1.02 g | ClC1=CC(=C(C#N)C=C1)OC1=C(C(=CC=C1)CN(C)C)SC | C17H17ClN2OS
reactant | ethyl chloroformate | 9.2 mmol, 900 μL | ClC(=O)OCC | C3H5ClO2
reactant | Water | 5 mL | O | H2O
reactant | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-(3-chloromethyl-2-methysulfanyl-phenoxy)-benzonitrile | 800 mg, 81% | ClC1=CC(=C(C#N)C=C1)OC1=C(C(=CC=C1)CCl)SC | C15H11Cl2NOS
